US06858627B2
To a dry 50 mL round bottom flask charged with a mixture of trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester (0.50 g, 1.56 mmol), Pd(OAc)2 (0.035 g, 0.156 mmol), di-tert-butylbiphenylphosphine (DTBBPP) (0.093 g, 0.312 mmol), and KF (0.27 g, 4.67 mmol) suspended in THF (5 mL), was added 3-thiopheneboronic acid (0.30 g, 2.33 mmol). The flask was evacuated and flushed three times with argon and the reaction mixture was allowed to stir at room temperature for 2 days. The reaction mixture was filtered through diatomaceous earth and diluted with EtOAc (50 mL). The mixture was sequentially washed with water (10 mL), NaOH (1.0 M, 10 mL), and brine (10 mL). The organic phase was dried over sodium sulfate (Na2SO4), filtered, and concentrated in vacuo. The crude residue was purified by chromatography (silica gel, 30% dichloromethane in hexanes) to give 2,2,4-trimethyl-6-thiophen-3-yl-1,2-dihydroquinoline (0.128 g, 32%).

reactant | trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | 1.56 mmol, 0.50 g | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | KF | 4.67 mmol, 0.27 g | [F-].[K+]
reactant | 3-thiopheneboronic acid | 2.33 mmol, 0.30 g | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.156 mmol, 0.035 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,2,4-trimethyl-6-thiophen-3-yl-1,2-dihydroquinoline | 0.128 g, 32% | CC1(NC2=CC=C(C=C2C(=C1)C)C1=CSC=C1)C | C16H17NS
